US08426446B2
Step 1. Synthesis of 3-pyridin-3-ylacryloyl chloride hydrochloride
Triethylamine (0.5 ml) was added dropwise to a suspension of 3-pyridin-3-ylacrylic acid (5.0 g) in anhydrous dichloromethane (30 ml), and 6 ml of oxalyl chloride was added dropwise slowly in an ice-bath with the temperature no more than 5° C. After addition, the reaction was carried out for 30 min in an ice-bath, and then at room temperature overnight. The completion of reaction was indicated by TLC. The reaction mixture was concentrated under reduced pressure to give a white solid, which was left to stand at room temperature for 1 h, and used directly for the next step.

reactant | Triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | 3-pyridin-3-ylacrylic acid | 5.0 g | N1=CC(=CC=C1)C=CC(=O)O | C8H7NO2
reactant | oxalyl chloride | 6 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 3-pyridin-3-ylacryloyl chloride hydrochloride | Cl.N1=CC(=CC=C1)C=CC(=O)Cl | InChI=1S/C8H6ClNO.ClH/c9-8(11)4-3-7-2-1-5-10-6-7;/h1-6H;1H
